US08258169B2
A solution of crude 1-[4-(4-chlorophenoxy)-phenyl]-propan-2-one O-methyl-oxime (6.0 g, 20.7 mmol) in acetic acid (50 ml) was treated at 10° C. with sodium cyanoborohydride (2.6 g, 41.4 mmol) added in small portions over 10 minutes and the resulting solution was stirred at 23° C. for 3.5 hours. The solvent was evaporated under reduced pressure (co-evaporation with toluene twice) and the residue was slurried with water and pH was adjusted to 11 with 1M NaOH. The aqueous phase was extracted with dichloromethane (2×20 ml), washed with brine and dried over anhydrous Na2SO4. After removal of the solvent (100 mbar; 45° C.), the residue (7.17 g) was purified by flash chromatography over silica gel (eluent: c-hexane). 3.91 g (65.0% of theory) of N-{2-[4-(4-chloro-phenoxy)-phenyl]-1-methyl-ethyl}-O-methyl-hydroxylamine was obtained in form of a clear liquid.

reactant | 1-[4-(4-chlorophenoxy)-phenyl]-propan-2-one O-methyl-oxime | 20.7 mmol, 6.0 g | CON=C(CC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)C | C16H16ClNO2
reactant | sodium cyanoborohydride | 41.4 mmol, 2.6 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-{2-[4-(4-chloro-phenoxy)-phenyl]-1-methyl-ethyl}-O-methyl-hydroxylamine | 3.91 g, 65.0% | ClC1=CC=C(OC2=CC=C(C=C2)CC(C)NOC)C=C1 | C16H18ClNO2
